US06472397B1
Ethyl 4-[[4-[1-(1-Acetoxyethyl)oxycarbonylpiperidin-4-yl]-2-oxopiperazin-1-yl]acetyl]phenoxyacetate
To a suspension of 107 mg of ethyl 4-[[2-oxo-4-(piperidin-4-yl)piperazin-1-yl]acetyl]phenoxyacetate dihydrochloride synthesized according to the method described in WO962503 in 2 ml of N,N-dimethylformamide were added 110 mg of proton sponge and 85.7 mg of 1-acetoxyethyl 4-nitrophenyl carbonate with stirring at 0° C., and the mixture was stirred at room temperature for 18 hours. The reaction mixture was poured into 2 ml of water and extracted three times with 4 ml of ethyl acetate. The organic layer was dried over magnesium sulfate, and the solvent was removed by distillation. The residue thus obtained was purified by chromatography on an LH-20 column (chloroform:methanol=1:1) to give 119 mg of the title compound (100%).

reactant | ethyl 4-[[2-oxo-4-(piperidin-4-yl)piperazin-1-yl]acetyl]phenoxyacetate dihydrochloride | 107 mg | Cl.Cl.O=C1N(CCN(C1)C1CCNCC1)CC(=O)C1=CC=C(OCC(=O)OCC)C=C1
reactant | proton sponge | 110 mg | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
reactant | 1-acetoxyethyl 4-nitrophenyl carbonate | 85.7 mg | C(OC(C)OC(C)=O)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H11NO7
reactant | water | 2 ml | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-[[4-[1-(1-Acetoxyethyl)oxycarbonylpiperidin-4-yl]-2-oxopiperazin-1-yl]acetyl]phenoxyacetate | 119 mg, 100% | C(C)(=O)OC(C)OC(=O)N1CCC(CC1)N1CC(N(CC1)CC(=O)C1=CC=C(OCC(=O)OCC)C=C1)=O | C26H35N3O9
